US07416559B2
Preparation and Characterization of Long-Lasting 88/14 Segmented l-Lactide/Trimethylene Carbonate Absorbable Copolymer (Co—P4) (PLTMC)
The copolymer (Co—P4) was prepared following the teaching of U.S. Pat. No. 6,342,065 by the two-step copolymerization of l-lactide with trimethylene carbonate in the presence of 1,3-propanediol and stannous octanoate as the initiator and catalyst, respectively. The polymer was isolated, ground, dried, and heated above 80° C. under reduced pressure to remove residual monomer. The polymer was characterized for identity (IR), thermal properties (DSC), and molecular weight by GPC (CH2Cl2). The polymer was shown to have a Tm=166° C. and Mw=160 kDa. The copolymer was then compression molded into a 0.1 mm-thick film at 180° C.

reactant | l-lactide | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | trimethylene carbonate | C1(OCCCO1)=O | C4H6O3
reactant | 1,3-propanediol | C(CCO)O | C3H8O2
product | l-Lactide Trimethylene Carbonate | C[C@H]1C(=O)O[C@H](C(=O)O1)C.C1(OCCCO1)=O | InChI=1S/C6H8O4.C4H6O3/c1-3-5(7)10-4(2)6(8)9-3;5-4-6-2-1-3-7-4/h3-4H,1-2H3;1-3H2/t3-,4-;/m0./s1
